.subckt deepseek_oscillator VDD VSS OSC_OUT
XM1  n1 OSC_OUT VSS VSS nfet_03v3 L=4u W=2u nf=1
XM1P n1 OSC_OUT VDD VDD pfet_03v3 L=4u W=4u nf=1
XM2  n2 n1 VSS VSS nfet_03v3 L=4u W=2u nf=1
XM2P n2 n1 VDD VDD pfet_03v3 L=4u W=4u nf=1
XM3  OSC_OUT n2 VSS VSS nfet_03v3 L=4u W=2u nf=1
XM3P OSC_OUT n2 VDD VDD pfet_03v3 L=4u W=4u nf=1
.ends deepseek_oscillator
